US06716851B2
4-(3-Trifluoromethyl-1-pyrazolyl)-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-chloro-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine (74 mg, 0.285 mmol) and 3-trifluromethyl-pyrazol (48 mg, 0.353 mmol) similar to Example 166 and was isolated as a white solid (mp 139-140° C., 53 mg, 0.148 mmol, 52%). 1H NMR (CDCl3): 9.73 (s, 1H), 8.82 (m, 3H), 8.26 (s, 1H), 7.50 (m, 1H), 6.87 (d, J=2.7 Hz, 1H).

reactant | 4-chloro-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine | 0.285 mmol, 74 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 3-trifluromethyl-pyrazol | 0.353 mmol, 48 mg | FC(C1=NNC=C1)(F)F | C4H3F3N2
product | 4-(3-Trifluoromethyl-1-pyrazolyl)-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine | FC(C1=NN(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1)(F)F | C14H7F6N5
